US04550105
To a solution of 0.400 g of (3R,4R)-4-methylsulfonyl-3-tritylamino-2-oxoazetidine in 2 ml of DMF is added 0.590 g of tetra-n-butylammonium fluoride, and the mixture is stirred for 30 minutes at room temperature. To the reaction mixture are added ice-water and ethyl acetate. The ethyl acetate layer is separated and washed with water, followed by concentration. The residue is purified on a silica-gel column (ethyl acetate:n-hexane=1:1) to give 0.282 g of (3R)-4-fluoro-3-tritylamino-2-oxoazetidine.

reactant | (3R,4R)-4-methylsulfonyl-3-tritylamino-2-oxoazetidine | 0.400 g | CS(=O)(=O)[C@@H]1[C@@H](C(N1)=O)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H22N2O3S
reactant | tetra-n-butylammonium fluoride | 0.590 g | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | (3R)-4-fluoro-3-tritylamino-2-oxoazetidine | 0.282 g | FC1[C@@H](C(N1)=O)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H19FN2O
